US04358593
6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene
A 3.6 g. portion of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene was dissolved in 100 ml. of tetrahydrofuran and 40 ml. of methanol, and 10 ml. of 5 N sodium hydroxide was added. The mixture was stirred for 16 hours at ambient temperature, and was then worked up by the procedure of Example 24 above to obtain 3.5 g. of a yellow solid. The impure product was purified by column chromatography on silica gel, eluting with a gradient solvent from 5% methanol in chloroform to 30% methanol in chloroform. The product-containing fractions were evaporated to obtain 1.85 g. of oily product, which was recrystallized from acetone to obtain 1.25 g. of purified product, m.p. 141°-144°.

reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C30H31NO8S3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
